US08420670B2
43.1 4-Chloro-2-methyl-8-propoxyquinoline
4-Chloro-8-hydroxy-2-methylquinoline (500 mg, 2.58 mmole) was suspended in dimethylformamide (4 mL) and mixed with sodium hydride (60% in paraffin liq., 113 mg). After stirring for 1 h, propyliodide (461 mg, 2.71 mmole) in dimethylformamide (1 mL) was added dropwise and the mixture was kept under stirring at RT for 16 hrs. Diluted NaCl solution was added and the mixture was extracted with ethyl acetate. The organic phases were dried, concentrated and the residue thus obtained was purified using silica gel chromatography, eluting with dichloromethane:methanol 95:5. Precipitation in isopropanol/iso-propyl ether/HCl gave the product (300 mg, 49%).

reactant | 4-Chloro-8-hydroxy-2-methylquinoline | 2.58 mmole, 500 mg | ClC1=CC(=NC2=C(C=CC=C12)O)C | C10H8ClNO
reactant | sodium hydride | 113 mg | [H-].[Na+]
reactant | propyliodide | 2.71 mmole, 461 mg | C(CC)I | C3H7I
reactant | NaCl | [Na+].[Cl-]
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-Chloro-2-methyl-8-propoxyquinoline | 300 mg, 49% | ClC1=CC(=NC2=C(C=CC=C12)OCCC)C | C13H14ClNO
